US05597922
Preparation of 5-nitro-6-bromo-2-hydroxybenzimidazole
The procedure of Cheesman, G. W. H., J. Chem. Soc. 1170 (1962), was adapted. To a stirred suspension of 5-bromo-2-hydroxybenzimidazole (105 mg, 0.49 mmol) in concentrated H2SO4 (1 mL) at 0° C. for 30 min was added KNO3 (58.5 mg, 0.58 mmol, Baker) in one portion. The mixture was stirred at 0° C. for 3 h then at room temperature for one day. The mixture became a red solution. Then it was poured into ice (30 g) resulting in the separation of a brown precipitate, which was collected by filtration and washed with distilled water (2×1 mL) followed by ethanol (2×1 mL) to give 141 mg of crude title compound (contains minor impurities by NMR). Crystallization from DMSO/H2O gave 103 mg of pure title compound (80.5%) as bright yellow needles: mp 290°-4° C. (dec.), changed color from 200° C. IR (KBr, cm-1): 3406, 3181, 1712, 1537. 1H NMR (DMSO-d6): δ 7.244 (s, 1H), 7.558 (s, 1H), 11.227 (s, 1H), 11.321 (s, 1H). HRMS: calcd for C7H4N3O3Br (M+) m/z 256.9433; found: 256.9439.

reactant | 5-bromo-2-hydroxybenzimidazole | 0.49 mmol, 105 mg | BrC1=CC2=C(N=C(N2)O)C=C1 | C7H5BrN2O
reactant | KNO3 | 0.58 mmol, 58.5 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 5-nitro-6-bromo-2-hydroxybenzimidazole | 103 mg, 80.5% | [N+](=O)([O-])C1=CC2=C(N=C(N2)O)C=C1Br | C7H4BrN3O3
